US09238639B2
Methyl 6-((2,4-dichlorobenzyl)oxy)-3-hydroxy-2,3-dihydro-1-benzofuran-3-carboxylate
To a mixture of methyl 6-((2,4-dichlorobenzyl)oxy)-2,3-dihydro-1-benzofuran-3-carboxylate (120 mg) in DMF (dry) (3.4 mL) was added sodium hydride (15.0 mg) at 0° C. After stirring for 30 min, to the mixture was added paraformaldehyde (20.4 mg) at 0° C. The mixture was stirred at room temperature under nitrogen atmosphere for 2 h. The mixture was quenched with saturated aqueous NH4Cl at 0° C. and extracted with EtOAc. The organic layer was separated, washed successively with water and brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (12.4 mg).

reactant | methyl 6-((2,4-dichlorobenzyl)oxy)-2,3-dihydro-1-benzofuran-3-carboxylate | 120 mg | ClC1=C(COC2=CC3=C(C(CO3)C(=O)OC)C=C2)C=CC(=C1)Cl | C17H14Cl2O4
reactant | sodium hydride | 15.0 mg | [H-].[Na+]
reactant | paraformaldehyde | 20.4 mg | C=O | CH2O
solvent | DMF | 3.4 mL | CN(C)C=O | C3H7NO
product | Methyl 6-((2,4-dichlorobenzyl)oxy)-3-hydroxy-2,3-dihydro-1-benzofuran-3-carboxylate | 12.4 mg | ClC1=C(COC2=CC3=C(C(CO3)(C(=O)OC)O)C=C2)C=CC(=C1)Cl | C17H14Cl2O5
